US07521453B2
3-Methoxybenzaldehyde oxime
A solution of hydroxylamine hydrochloride (10 g, 0.144 mol) in distilled water (20 ml) was added to 20%(w/v) aqueous sodium hydroxide solution (28 ml). 3-Methoxybenzaldehyde (14 ml, 0.12 mol) was added in one portion and the mixture was stirred for 2 hours at 0-5° C. The mixture was adjusted to pH7 and extracted with dichloromethane. The extracts were combined, dried (MgSO4) and the solvent removed by evaporation to give the title compound (18.7 g, 100%) as a colourless oil. NMR (CDCl3): 3.8 (s, 3H), 6.9 (m, 1H), 7.1 (m, 2H), 7.15 (m, 1H), 8.1 (s, 1H), 8.6 (br s, 1H).

reactant | hydroxylamine hydrochloride | 0.144 mol, 10 g | Cl.NO
reactant | sodium hydroxide | 28 ml | [OH-].[Na+]
reactant | 3-Methoxybenzaldehyde | 0.12 mol, 14 ml | COC=1C=C(C=O)C=CC1 | C8H8O2
solvent | water | 20 ml | O | H2O
product | 3-Methoxybenzaldehyde oxime | 18.7 g, 100% | COC=1C=C(C=NO)C=CC1 | C8H9NO2
